US05616601
A mixture of 2-(4-chlorophenyl)-4-hydroxy-1-[4-(methylsulfonyl)phenyl]-4-[(2-quinolylmethoxy)methyl]-4,5-dihydro-1H-imidazole (1 mmol) and p-toluenesulfonic acid monohydrate (100 mg) in toluene (70 mL) is heated to reflux for 48 hours. The reaction mixture is cooled and the solvent removed under reduced pressure. The crude residue is redissolved in methylene chloride and washed with water, aqueous sodium bicarbonate and brine. After drying (Na2SO4), filtration and concentration in vacuo, the crude mixture is chromatographed on silica gel using hexane/ethyl acetate to give 2-(4-chlorophenyl)-1-[4-(methylsulfonyl)phenyl]-4-[(2-quinolylmethoxy)methyl]-1H-imidazole.

reactant | 2-(4-chlorophenyl)-4-hydroxy-1-[4-(methylsulfonyl)phenyl]-4-[(2-quinolylmethoxy)methyl]-4,5-dihydro-1H-imidazole | 1 mmol | ClC1=CC=C(C=C1)C=1N(CC(N1)(COCC1=NC2=CC=CC=C2C=C1)O)C1=CC=C(C=C1)S(=O)(=O)C | C27H24ClN3O4S
reactant | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chlorophenyl)-1-[4-(methylsulfonyl)phenyl]-4-[(2-quinolylmethoxy)methyl]-1H-imidazole | ClC1=CC=C(C=C1)C=1N(C=C(N1)COCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C27H22ClN3O3S
